US06649600B1
3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionitrile.
A solution of 3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-acrylonitrile (110 mg, 0.278 mmol) in MeOH (20 ml) and CH2Cl2 (5 ml) was hydrogenated using Pd on carbon (10 mol %) and a ballon of hydrogen affixed to a 3-way stopcock/ground glass adapter. After stirring overnight, the mixture was degassed, filtered through Celite and concentrated in vacuo to give a brittle foam (100 mg, 90%). 1H NMR (400 MHz, CDCl3); δ 0.93 (coincident triplets, 6H), 1.53 (m, 6H),1.57 (t, 2H), 1.67 (m, 2H), 1.77 (m, 2H), 2.00 (m, 6H), 2.24 (t, 2H), 3.99 (t, 2H), 4.05 (t, 2H), 12.17 (s, 1H).

reactant | 3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-acrylonitrile | 0.278 mmol, 110 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)C=CC#N)=O)CCC | C22H29N5O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 ml | CO | CH4O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd on carbon | [Pd] | Pd
product | 3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionitrile | 100 mg, 90% | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCC#N)=O)CCC | C22H31N5O2
